* Wurlitzer 200A Preamp — DC Operating Point Testbench
* =====================================================
* Validates DC bias against the 2026-09-13 drawn-topology revision.
*
* Targets (independent SPICE cross-check, Vcc 14.5V, 2N5089 card BF 1434
* — this exact configuration):
*   TR-1 Base (base1):      2.651V
*   TR-1 Emitter (emit1):   2.093V
*   TR-1 Collector (coll1): 4.269V  (= TR-2 Base)
*   TR-2 Emitter a (emit2a): 3.602V
*   TR-2 Collector (coll2): 8.561V
* Reference sets (for context, NOT this card):
*   Print marks: B1 2.45, C1 4.1, E2 3.4, C2 8.8 (nominal annotations)
*   GroupDIY hardware: B1 2.447, E1 1.923, C1 3.980, E2 3.356, C2 8.450
*   (hardware matches at Green-grade TR-2, BF ~350-400, not at BF 1434)
* Note: out sits at 0V DC now — C-6 blocks; the R-9/R-10 node is 0V DC.

.title Preamp DC Operating Point

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

* Supply: +14.5V regulated (service manual text p.64; drawing marks +15V)
Vcc  vcc 0  DC 14.5

* Instantiate preamp — no signal input, trem pin floating (no LDR)
Xpre  in_sig out vcc 0 trem  wurli_preamp

* DC input = 0V (no signal, just bias)
Vin  in_sig 0  DC 0

* Load resistor (simulates volume pot / next stage input impedance)
Rload out 0  100K

.op

* Print all internal node voltages
* Note: .op outputs all node voltages and device info in the log.
* These .print statements use OP (not DC) to avoid "no dc analysis" errors.
.print OP V(Xpre.base1) V(Xpre.emit1) V(Xpre.coll1)
.print OP V(Xpre.emit2a) V(Xpre.emit2b) V(Xpre.coll2)
.print OP V(out)
.print OP @Q.Xpre.Q1[ic] @Q.Xpre.Q2[ic]

.end
